US07598383B2
Step B: Preparation of 4-(4-bromo-2-fluorophenylamino)-3-fluoro-1-methyl-5-(5-methyl-4H-[1,2,4]triazol-3-yl)-1H-pyridin-2-one:
PPh3 (0.12 g, 0.45 mmol), Et3N (0.17 mL, 1.21 mmol), and CCl4 (0.044 mL, 0.45 mmol) were added to a stirred suspension of 4-(4-bromo-2-fluorophenylamino)-5-fluoro-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid N′-(1-imino-ethyl)-hydrazide (0.073 g, 0.18 mmol) in methylene chloride (2 mL). The reaction mixture was stirred at 50° C. for 2 hours. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate, washed with water, dried (MgSO4) and concentrated. Purification by flash column chromatography (4% MeOH in methylene chloride) gave clean desired product (30 mg, 50%); MS APCI (−) m/z 394, 396 (M−, Br pattern) detected; 1H NMR (400 mHz, CD3OD) δ 8.16 (s, 1H), 7.31 (dd, 1H), 7.25 (d, 1H), 7.01 (td, 1H), 3.67 (s, 3H), 2.51 (s, 3H).

reactant | PPh3 | 0.45 mmol, 0.12 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | Et3N | 1.21 mmol, 0.17 mL | CCN(CC)CC | C6H15N
reactant | CCl4 | 0.45 mmol, 0.044 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | 4-(4-bromo-2-fluorophenylamino)-5-fluoro-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid N′-(1-imino-ethyl)-hydrazide | 0.18 mmol, 0.073 g | N=C(C)NNC(=O)C1=CN(C(C(=C1NC1=C(C=C(C=C1)Br)F)F)=O)C | C15H14BrF2N5O2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-bromo-2-fluorophenylamino)-3-fluoro-1-methyl-5-(5-methyl-4H-[1,2,4]triazol-3-yl)-1H-pyridin-2-one | 30 mg, 50% | BrC1=CC(=C(C=C1)NC1=C(C(N(C=C1C1=NN=C(N1)C)C)=O)F)F | C15H12BrF2N5O
